US09340544B2
(2-Hydrazino-9-methyl-9H-purin-6-yl)-phenethyl-amine
Was prepared according to Example 8 from (2-chloro-9-methyl-9H-purin-6-yl)phenethyl-amine and hydrazine monohydrate.

reactant | (2-chloro-9-methyl-9H-purin-6-yl)phenethyl-amine | ClC1=NC(=C2N=CN(C2=N1)C)NCCC1=CC=CC=C1 | C14H14ClN5
reactant | hydrazine monohydrate | O.NN
product | (2-Hydrazino-9-methyl-9H-purin-6-yl)-phenethyl-amine | N(N)C1=NC(=C2N=CN(C2=N1)C)NCCC1=CC=CC=C1 | C14H17N7
